US05753657
2.8 g of a mixture of 10-(2-methyl-1-propenyl)-5H,10H-imidazo[1,2-]indeno[1,2-e]pyrazin-4-one and 10-(2-methylpropylidene)-5H,10H-imidazo-[1,2-a]indeno[1,2-e]pyrazin-4-one are hydrogenated in the presence of 180 ml of dimethylformamide, 20 ml of methanol and 0.5 g of 10% palladium on charcoal for 22 hours at 50° C. and at a pressure of 54 bar of hydrogen. After filtration of the catalyst under inert atmosphere, the solvents are evaporated off and the grey solid obtained (2.1 g) is purified by chromatography on a column of silica (180 g partially deactivated with 3 ml of water), using a mixture of dichloromethane and methanol (90/10 by volume) as eluent. After trituration in 20 ml of ethyl ether, filtration and drying at 100° C., 1.2 g of 10-isobutyl-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one are thus obtained, in the form of a cream-coloured solid melting above 260° C. (Analysis % calculated C: 73.10, H: 6.13, N: 15.04, O: 5.73, % found C: 72.9, H: 5.6, N: 14.8).

reactant | 10-(2-methylpropylidene)-5H,10H-imidazo-[1,2-a]indeno[1,2-e]pyrazin-4-one | CC(C=C1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O)C | C17H15N3O
reactant | dimethylformamide | 180 ml | CN(C=O)C | C3H7NO
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 0.5 g | [Pd] | Pd
solvent | methanol | 20 ml | CO | CH4O
product | 10-isobutyl-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 1.2 g | C(C(C)C)C1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C17H17N3O
